US08383660B2
N-[3,5-Bis(trifluoromethyl)benzyl]-2-methyl-N-[2-(1-morpholin-4-yl-propyl)-5-(trifluoromethyl)benzyl]-2H-tetrazol-5-amine
To a solution of benzotriazole (25.6 mg, 0.215 mmoles) in ethanol (2 mL) was added morpholine (18.7 mg, 0.215 mmoles) and the reaction mixture was stirred for 10 minutes at room temperature. A solution of 2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde (100 mg, 0.195 mmoles) in ethanol (2 mL) was added and the reaction mixture was further stirred for 16 hours. MS indicated formation of the imine intermediate MH+=581.4. The ethanol was evaporated and the residue was dissolved in toluene (3 mL). Ethyl magnesium bromide (0.19 mL, 0.586 mmoles of a 3M solution in ether) was added and the reaction mixture was heated at 50° C. for 2 h. LC-MS indicated formation of the desired product. The reaction mixture was diluted with ethyl acetate then washed with saturated aqueous NH4Cl solution followed by 1N NaOH solution. The organic layer was concentrated. The residue was purified by flash chromatography (silica gel, 40 g) (eluted over a gradient 5-30-50% ethyl acetate and hexane) to give the title compound as clear oil, 91 mg (76%). 1H NMR (CDCl3) δ 7.79 (1H, s), 7.65 (2H,s), 7.46(2H,m), 7.25(1H, s), 4.85(2H,m), 4.68(2H,s), 4.20(3H,s), 3.60(2H,m), 3.55(2H,m), 2.98(1H,m), 2.50(2H,m), 2.25(2H,m), 1.80(2H,m), 0.85(3H, t). MS (ES+) Calc: 610.5, Found: 611.2 (M+1).

reactant | benzotriazole | 0.215 mmoles, 25.6 mg | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | morpholine | 0.215 mmoles, 18.7 mg | N1CCOCC1 | C4H9NO
reactant | 2-{[(3,5-bis-trifluoromethyl-benzyl)-(2-methyl-2H-tetrazol-5-yl)-amino]-methyl}-4-trifluoromethyl-benzaldehyde | 0.195 mmoles, 100 mg | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=O)C=CC(=C2)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C20H14F9N5O
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-[3,5-Bis(trifluoromethyl)benzyl]-2-methyl-N-[2-(1-morpholin-4-yl-propyl)-5-(trifluoromethyl)benzyl]-2H-tetrazol-5-amine | FC(C=1C=C(CN(C=2N=NN(N2)C)CC2=C(C=CC(=C2)C(F)(F)F)C(CC)N2CCOCC2)C=C(C1)C(F)(F)F)(F)F | C26H27F9N6O
